US08486952B2
N2-(3-fluoro-4-(5-methyl-1H-1,2,4-triazol-1-yl)phenyl)-N4-methyl-7-(3,4,5-trifluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diamine
2-Chloro-N-methyl-7-(3,4,5-trifluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine (65.3 mg, 0.208 mmol) was added to a solution of 3-fluoro-4-(5-methyl-1H-1,2,4-triazol-1-yl)aniline (40 mg, 0.208 mmol) in acetic acid (2 mL) and THF (2.000 mL). The reaction mixture was heated at 80° C. overnight. Partial formation of the desired product was observed. The reaction mixture was heated at 130° C. for 6 h. The crude reaction mixture was purified by preparative HPLC. The appropriate fractions were evaporated to afford N2-(3-fluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)-N4-methyl-7-(3,4,5-trifluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diamine, TFA salt (5.3 mg, 8.99 μmol, 4.32% yield). LC-MS (M+H)+=470.0. 1H NMR (500 MHz, CDCl3) δ ppm 12.17 (1H, s), 8.75 (1H, d, J=1.8 Hz), 8.05 (1H, dd, J=13.7, 2.1 Hz), 7.80 (1H, t, J=8.7 Hz), 7.44-7.65 (1H, m), 6.74-6.99 (2H, m), 5.33-5.66 (1H, m), 4.34-4.67 (1H, m), 3.42-3.74 (2H, m), 3.29 (3H, d, J=4.9 Hz), 2.70-2.99 (2H, m), 2.57 (2H, s), 2.14-2.38 (1H, m).

reactant | 2-Chloro-N-methyl-7-(3,4,5-trifluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine | 0.208 mmol, 65.3 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC(=C(C(=C2)F)F)F)NC | C14H11ClF3N3
reactant | 3-fluoro-4-(5-methyl-1H-1,2,4-triazol-1-yl)aniline | 0.208 mmol, 40 mg | FC=1C=C(N)C=CC1N1N=CN=C1C | C9H9FN4
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | THF | 2.000 mL | C1CCOC1 | C4H8O
product | N2-(3-fluoro-4-(5-methyl-1H-1,2,4-triazol-1-yl)phenyl)-N4-methyl-7-(3,4,5-trifluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diamine | FC=1C=C(C=CC1N1N=CN=C1C)NC=1N=C(C2=C(N1)C(CC2)C2=CC(=C(C(=C2)F)F)F)NC | C23H19F4N7
